US08008283B2
In a similar manner to Example 7, furosemide can be reacted with EDC, HOBt and diethylamine in DMF to yield N,N-diethyl 5-aminosulfonyl-4-chloro-2-[(2-furanylmethyl)-amino]benzamide.

reactant | furosemide | C=1C=C(OC1)CNC2=CC(=C(C=C2C(=O)O)S(=O)(=O)N)Cl | C12H11ClN2O5S
reactant | EDC
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diethylamine | C(C)NCC | C4H11N
solvent | DMF | CN(C)C=O | C3H7NO
product | N,N-diethyl 5-aminosulfonyl-4-chloro-2-[(2-furanylmethyl)-amino]benzamide | C(C)N(C(C1=C(C=C(C(=C1)S(=O)(=O)N)Cl)NCC=1OC=CC1)=O)CC | C16H20ClN3O4S
